US08309721B2
4.83 g of potassium carbonate and 3 g (40 mmol) of 2-fluoroethylamine are successively added to a solution of 0.7 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate, obtained in stage 1 of Example 49, in 5 ml of dimethyl sulphoxide. The reaction mixture is heated at 90° C. for 2 hours and 50 minutes in a microwave, and then diluted with distilled water. The aqueous phase is washed twice with ethyl acetate and the combined organic phases are washed with water and a saturated solution of sodium chloride, dried over magnesium sulphate and concentrated to dryness under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with dichloromethane, so as to give 0.15 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(2-fluoroethyl)amino]benzoate in the form of a white powder, the characteristics of which are the following:

reactant | potassium carbonate | 4.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoroethylamine | 40 mmol, 3 g | FCCN | C2H6FN
reactant | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate | 0.7 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C29H22FN3O2
solvent | dimethyl sulphoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(2-fluoroethyl)amino]benzoate | 0.15 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NCCF | C31H27FN4O2
